US04356128
Preparation of formyloctadecanonitrile (FON)
Into a 1 liter, 316 SS autoclave equipped with stirrer and heat exchange coil is placed 617 grams of olenitrile, 3.0 grams of 5 percent rhodium on aluminum (Englehardt Industries) and 3.2 grams of triphenylphosphite. The autoclave is flushed with nitrogen then pressurized with carbon monoxidehydrogen (1:1) to 1080 psig. The temperature is increased to 127-133 degrees C. and maintained from 3.3 hours with a CO--H2 pressure of 970-1080 psig. At this point a GC analysis indicated complete reaction of oleonitrile with the formation of FON. The reaction was cooled, the pressure vented and the product filtered. The yield of FON is 681. Rhodium is removed from the product by vacuum distillation.

reactant | olenitrile | 617 grams | C(CCCCCCC\C=C/CCCCCCCC)#N | C18H33N
reactant | triphenylphosphite | 3.2 grams | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
catalyst | rhodium | 3.0 grams | [Rh] | Rh
product | formyloctadecanonitrile | C(=O)C(C#N)CCCCCCCCCCCCCCCC | C19H35NO
